US08871792B2
Preparation 8: 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic Acid
Methyl 2,5-dihydro-5-oxo-1-phenyl-1h-1,2,4-triazole-3-carboxylate (300.0 mg, 1.4 mmol) was mixed with MeOH (4.5 mL, 110 mmol) and water (0.5 mL, 30 mmol) at room temperature, then treated with LiOH monohydrate (0.1 g, 2.7 mmol) at room temperature overnight. The mixture was concentrated and the resulting residue was acidified to pH˜1 with 1N aqueous HCl. The resulting solids were filtered and rinsed with water, then dried in vacuo to give the title compound as a yellowish solid (185 mg), which was used without further purification.

reactant | Methyl 2,5-dihydro-5-oxo-1-phenyl-1h-1,2,4-triazole-3-carboxylate | 1.4 mmol, 300.0 mg | O=C1N=C(NN1C1=CC=CC=C1)C(=O)OC | C10H9N3O3
reactant | MeOH | 110 mmol, 4.5 mL | CO | CH4O
reactant | water | 30 mmol, 0.5 mL | O | H2O
product | 5-Oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic Acid | 185 mg | O=C1NC(=NN1C1=CC=CC=C1)C(=O)O | C9H7N3O3
